US08058045B2
N-Boc-4-piperidinemethanol (860 mg, 4.0 mmol) was added to a suspension of 60% sodium hydride (160 mg, 4.0 mmol) in DMF (40 mmol) at room temperature. After 20 minutes, 2-bromo-4-chloro-5-nitropyridine (949 mg, 4.0 mmol) was added in one portion, and the resulting mixture was stirred overnight at room temperature. The mixture was diluted with ether and washed with water. The aqueous phase was extracted with ether. The combined organic phases were washed with water and brine, then dried (Na2SO4) and concentrated. Silica column chromatography, eluting with 20% ethyl acetate-hexane, gave tert-butyl 4-((2-bromo-5-nitropyridin-4-yloxy)methyl)piperidine-1-carboxylate (789 mg, 62%) as a viscous, pale yellow oil which solidified on standing.

reactant | N-Boc-4-piperidinemethanol | 4.0 mmol, 860 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)CO | C11H21NO3
reactant | sodium hydride | 4.0 mmol, 160 mg | [H-].[Na+]
reactant | DMF | 40 mmol | CN(C)C=O | C3H7NO
reactant | 2-bromo-4-chloro-5-nitropyridine | 4.0 mmol, 949 mg | BrC1=NC=C(C(=C1)Cl)[N+](=O)[O-] | C5H2BrClN2O2
solvent | ether | CCOCC | C4H10O
product | tert-butyl 4-((2-bromo-5-nitropyridin-4-yloxy)methyl)piperidine-1-carboxylate | 789 mg, 62% | BrC1=NC=C(C(=C1)OCC1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C16H22BrN3O5
